US05990142
5F 2-(Benzyloxymethyl)benzofuran-5-carbonitrile
A dispersion of potassium hydride (0.990 g, 5.04 mmol) in 20% mineral oil was washed by decantation with anhydrous hexane, then was resuspended in anhydrous benzene (25 ml). This suspension was added at 0° C. and under inert atmosphere with a solution of 2-(hydroxymethyl)benzofuran-5-carbonitrile (0.671 mg, 3.89 mmol) in benzene (10 ml) stirring at room temperature for 15 min, then with benzyl bromide (0.825 ml) and a catalytic amount of tetrabutylammonium iodide. The mixture was left under stirring at room temperature for 4 h, then added with water (50 ml) and extracted with ethyl acetate (4×50 ml). The organic phase was dried and the solvent removed, to obtain a crude which was purified by chromatography through a silica gel column, eluting with n-hexane:ethyl acetate mixtures of increasing polarity, thereby recovering 1.087 g of the title compound as a yellowish oil (82% yield).

reactant | potassium hydride | 5.04 mmol, 0.990 g | [H-].[K+]
reactant | 2-(hydroxymethyl)benzofuran-5-carbonitrile | 3.89 mmol, 0.671 mg | OCC=1OC2=C(C1)C=C(C=C2)C#N | C10H7NO2
reactant | benzyl bromide | 0.825 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(Benzyloxymethyl)benzofuran-5-carbonitrile | 1.087 g, 82% yield | C(C1=CC=CC=C1)OCC=1OC2=C(C1)C=C(C=C2)C#N | C17H13NO2
